US05206240
Step B: Preparation of 2,3-Dihydrospiro(benzofuran-2,3'-piperidine)
A solution of 13 g (46 mmole) of 1'-benzyl-2,3-dihydrospiro(benzofuran-2,3'-piperidine) in 100 mL dichloroethane was treated with 7.13 g (5.2 mL, 51 mmoles) of 1-chloroethylchloroformate at room temperature for 1/2 hour. The reaction mixture was concentrated and the residue dissolved in CH3OH and heated to reflux for 1/2 hour. The methanol was evaporated at reduced pressure, and the residue partitioned between ethyl acetate and 1N HCl. The ethyl acetate layer was discarded and the aqueous phase was basified to pH 9 and reextracted with ethyl acetate. The ethyl acetate solution was dried over magnesium sulfate, filtered and concentrated in vacuo to give 8.2 g product.

reactant | 1'-benzyl-2,3-dihydrospiro(benzofuran-2,3'-piperidine) | 46 mmole, 13 g | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=C(C2)C=CC=C1 | C19H21NO
reactant | 1-chloroethylchloroformate | 51 mmoles, 5.2 mL, 7.13 g | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | 2,3-Dihydrospiro(benzofuran-2,3'-piperidine) | 8.2 g | N1CC2(CCC1)OC1=C(C2)C=CC=C1 | C12H15NO
